US08114902B2
4-bromo-2-chlorobenzyl alcohol
Methyl 4-bromo-2-chlorobenzoate (477 g) of Reference Example 11 was dissolved in a mixed solution of ethanol (3000 mL) and water (680 mL), calcium chloride (212.2 g) was added at 10° C., and the mixture was stirred for 30 min. To the solution was added sodium borohydride (144.7 g) by portions so that the inside temperature would not exceed 25° C., and the mixture was stirred at room temperature for 5 hr. 1M Hydrochloric acid (5100 mL) was added dropwise to the reaction mixture, and the reaction solvent was evaporated under reduced pressure. Water and ethyl acetate were added to the residue. After partitioning and extraction, the organic layer was washed with 25% brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (399 g) as white crystals.

reactant | Methyl 4-bromo-2-chlorobenzoate | 477 g | BrC1=CC(=C(C(=O)OC)C=C1)Cl | C8H6BrClO2
reactant | calcium chloride | 212.2 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 144.7 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 1M, 5100 mL | Cl | ClH
solvent | ethanol | 3000 mL | C(C)O | C2H6O
solvent | water | 680 mL | O | H2O
product | 4-bromo-2-chlorobenzyl alcohol | 399 g | BrC1=CC(=C(CO)C=C1)Cl | C7H6BrClO
